US07253286B2
N-(2-Fluoro-4-{[6-cyano-7-(4-piperidylmethoxy)-4-quinol yl]oxy}phenyl)-N′-(4-fluorophenyl)urea
After dissolving 4-(6-cyano-4-{3-fluoro-4-[3-(4-fluorophenyl)ureido]phenoxy}quinolin-7-yloxymethyl)piperidine-1-carboxylic acid tert-butyl ester (395 mg) in trifluoroacetic acid (2 ml), the solution was stirred for 10 minutes at room temperature. Water (20 ml) was added, the mixture was neutralized with sodium bicarbonate, and the precipitated crystals were filtered out to obtain the title compound (260 mg).

reactant | 4-(6-cyano-4-{3-fluoro-4-[3-(4-fluorophenyl)ureido]phenoxy}quinolin-7-yloxymethyl)piperidine-1-carboxylic acid tert-butyl ester | 395 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C=C2C(=CC=NC2=C1)OC1=CC(=C(C=C1)NC(=O)NC1=CC=C(C=C1)F)F)C#N | C34H33F2N5O5
reactant | Water | 20 ml | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | N-(2-Fluoro-4-{[6-cyano-7-(4-piperidylmethoxy)-4-quinol yl]oxy}phenyl)-N′-(4-fluorophenyl)urea | 260 mg | FC1=C(C=CC(=C1)OC1=CC=NC2=CC(=C(C=C12)C#N)OCC1CCNCC1)NC(=O)NC1=CC=C(C=C1)F | C29H25F2N5O3
